US05753670
1,4-Diaminocyclohexane (cis, trans mixture) (24.0 g, 210 mmol) and triethylamine (16.3 ml, 117 mmol) were dissolved in methylene chloride (400 ml). A solution of triphenylmethyl chloride (32.5 g, 117 mmol) dissolved in methylene chloride (100 ml) was dropwise added under ice-cooling and the mixture was stirred for 15 minutes and at room temperature for 45 minutes. The reaction mixture was filtrated and low boiling matters were distilled away from the filtrate under reduced pressure. Water (100 ml) was added to the residue and extracted with chloroform. The extract was dried over anhydrous sodium sulfate. After filtration, low boiling matters were distilled away from the filtrate under reduced pressure. The residue was purified by silica gel (Chromatorex, NH type, Fuji Silysia Chemical) column chromatography (chloroform/n-hexane=5/1-10/1) to give 18.4 g of 1-amino-4-(triphenylmethylamino)cyclohexane as a pale-yellow oil (25%).

reactant | 1,4-Diaminocyclohexane | 210 mmol, 24.0 g | NC1CCC(CC1)N | C6H14N2
reactant | triethylamine | 117 mmol, 16.3 ml | C(C)N(CC)CC | C6H15N
reactant | triphenylmethyl chloride | 117 mmol, 32.5 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-amino-4-(triphenylmethylamino)cyclohexane | 18.4 g, 25% | NC1CCC(CC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H28N2
